US06333336B1
a) 3-[2-(4-Chlorophenyl)-3,5-dihydro-6-methyl-3-oxo-2H-pyrazolo[4,3-c]pyridin-7-yl]benzoic acid
A mixture of 3-[2-(4-chlorophenyl)-3,5-dihydro-6-methyl-3-oxo-2H-pyrazolo[4,3-c]pyridin-7-yl]benzoic acid butyl ester (from Example 25, Step a) (0.350 g, 0.803 mmol) in 1M aqueous NaOH (3.9 ml) was stirred at room temperature overnight. The mixture was then filtered from a little dark orange solid, which was washed with water, and the combined filtrates were neutralised to pH 5 by the addition of 5M aqueous HCl. The resulting yellow solid was collected by filtration, washed with water, then hexane, and dried at 70° C. under vacuum to afford 0.223 g (73%) of the title compound; 1H NMR (250 MHz, DMSO-d6) δ2.25 (3H, s), 7.43 (2H, d, J 9.0 Hz), 7.65 (1H, t, J 7.7 Hz), 7.77 (1H, dt, J 7.8, J′1.5 Hz), 8.01 (1H, dt, J 7.7, J′1.4 Hz), 8.07 (1H, t, J 1.4 Hz), 8.12 (2H, d, J 9.0 Hz), 8.60 (1H, d), 12.57 (1H, d, J 6.3 Hz), 13.09 (1H, br s); MS (ES+) m/z 380/382 [MH]+.

reactant | 3-[2-(4-chlorophenyl)-3,5-dihydro-6-methyl-3-oxo-2H-pyrazolo[4,3-c]pyridin-7-yl]benzoic acid butyl ester | C(CCC)OC(C1=CC(=CC=C1)C=1C=2C(=CNC1C)C(N(N2)C2=CC=C(C=C2)Cl)=O)=O | C24H22ClN3O3
solvent | NaOH | 1M, 3.9 ml | [OH-].[Na+]
product | 3-[2-(4-Chlorophenyl)-3,5-dihydro-6-methyl-3-oxo-2H-pyrazolo[4,3-c]pyridin-7-yl]benzoic acid | 0.223 g, 73% | ClC1=CC=C(C=C1)N1N=C2C(=CNC(=C2C=2C=C(C(=O)O)C=CC2)C)C1=O | C20H14ClN3O3
